US08198269B2
(1) Synthesis of methyl 5-cyanopyridine-2-carboxylate
A mixture of methyl 5-bromopyridine-2-carboxylate (2.8 g) and copper cyanide (3.6 g) in NMP (30 ml) was heated with stirring at 170° C. for 1.5 hours. Water was added to the reaction solution at room temperature, and the insoluble matter was removed by filtration. The filtrate was extracted with ethyl acetate. The extract was washed with brine and then dried over anhydrous magnesium sulfate. The drying agent was filtered off and the filtrate was concentrated under reduced pressure. The resulting crude product was purified by silica gel column chromatography to obtain the title compound (920 mg).

reactant | methyl 5-bromopyridine-2-carboxylate | 2.8 g | BrC=1C=CC(=NC1)C(=O)OC | C7H6BrNO2
reactant | copper cyanide | 3.6 g | [Cu](C#N)C#N
reactant | Water | O | H2O
solvent | NMP | 30 ml | CN1CCCC1=O | C5H9NO
product | methyl 5-cyanopyridine-2-carboxylate | 920 mg | C(#N)C=1C=CC(=NC1)C(=O)OC | C8H6N2O2
